US03950528
3-Amino-1-(3,5-dichlorobenzyl)-pyrazol-5-one ##SPC59##
After adding 1 g of p-toluenesulphonic acid to a solution of 49.6 g of β-amino-β-ethoxyacrylic acid ethyl ester in "ml of ethanol, 59 g of 3,5-dichlorobenzylhydrazine were added dropwise under nitrogen. The solution was left to stand overnight and the solids which precipitated melted at 175°-176° after recrystallisation from ethanol. Yield: 40 g (48%) of the compound identified above.

reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 49.6 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | 3,5-dichlorobenzylhydrazine | 59 g | ClC=1C=C(CNN)C=C(C1)Cl | C7H8Cl2N2
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-(3,5-dichlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=CC(=C1)Cl)Cl | C10H9Cl2N3O
